US05728866
Preparation of (+)-(1R)-cis-3-oxo-2-pentyl-1-cyclopentaneacetic acid
Into a Schlenk type vessel, kept anhydrous and under Ar, there was injected the precatalytic solution (6.75 ml) containing 47 mg (0.05 mmole) of bis(trifluoro-acetato)[(+)-(R)-2,2'-bis-(diphenylphosphino)-1,1'-binaphthyl]ruthenium (II), 3-oxo-2-pentyl-1-cyclopentene-1-acetic acid (0.5 g, 2.4 mmole), CH2Cl2 (5 ml), methanol (5 ml) and triethylamine (10.28 mg, 0.1 mmole, 14 μl, dist. over KOH). After stirring for 5 min, the orange soltion was filtered through a single use filter (Acrodisc 0.45 μm) in a dry autoclave (100 ml/107Pa) under Ar. The autoclave was then connected to a source of hydrogen and rinsed 5× with hydrogen at a pressure of 106Pa. The autoclave was then pressurized at 9×106Pa. Stirring at this pressure and 25° was carried out during 120 h. Afterwards, the pressure was gently released, the autoclave opened and the orange solution concentrated.

reactant | 3-oxo-2-pentyl-1-cyclopentene-1-acetic acid | 2.4 mmole, 0.5 g | O=C1C(=C(CC1)CC(=O)O)CCCCC | C12H18O3
reactant | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 0.1 mmole, 14 μl, 10.28 mg | C(C)N(CC)CC | C6H15N
solvent | methanol | 5 ml | CO | CH4O
product | (+)-(1R)-cis-3-oxo-2-pentyl-1-cyclopentaneacetic acid | O=C1[C@H]([C@H](CC1)CC(=O)O)CCCCC | C12H20O3
